US06511974B1
[4-(3-Cyclopropyl-pyrazol-1-yl)-2-trifluoromethy-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 2, employing (4-fluoro-2-trifluoromethyl-phenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.42 g), 60% sodium hydride in oil (0.20 g), 3-cyclopropylpyrazole (0.43 g) and dimethylformamide (50 ml), the product (1.22 g) was obtained as a crystalline solid, m.p. 163-164° C.

reactant | (4-fluoro-2-trifluoromethyl-phenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.42 g | FC1=CC(=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C(F)(F)F | C20H14F4N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-cyclopropylpyrazole | 0.43 g | C1(CC1)C1=NNC=C1 | C6H8N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [4-(3-Cyclopropyl-pyrazol-1-yl)-2-trifluoromethy-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.22 g | C1(CC1)C1=NN(C=C1)C1=CC(=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)C(F)(F)F | C26H21F3N4O
